US09023858B2
G) 6-amino-3-[4-(2,2,2-trifluoroethoxy)phenyl]-2-(3,3,3-trifluoropropyl)pyrimidin-4(3H)-one
To a solution of tris(dibenzylideneacetone)dipalladium(0) (537 mg), 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (679 mg) in toluene (50 mL) were added 6-oxo-1-[4-(2,2,2-trifluoroethoxy)phenyl]-2-(3,3,3-trifluoropropyl)-1,6-dihydropyrimidin-4-yl trifluoromethanesulfonate (5.03 g), 1,1-diphenylmethanimine (1.97 mL) and cesium carbonate (7.97 g) at room temperature, and the mixture was stirred overnight at 100° C. The reaction mixture was concentrated under reduced pressure. To the residue was added THF, and the insoluble material was removed by filtration. The filtrate was concentrated under reduced pressure. To a solution of the obtained residue in THF (100 mL) was added 1N hydrochloric acid (100 mL) at 0° C., and the mixture was stirred for 2 hr. The reaction mixture was extracted with ethyl acetate, and the extract was washed with saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The residue was subjected to aminopropylsilane-bonded silica gel column chromatography (ethyl acetate/hexane) and then silica gel column chromatography (ethyl acetate/hexane) to give the title compound (2.64 g) as a solid.

reactant | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 679 mg | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
reactant | 6-oxo-1-[4-(2,2,2-trifluoroethoxy)phenyl]-2-(3,3,3-trifluoropropyl)-1,6-dihydropyrimidin-4-yl trifluoromethanesulfonate | 5.03 g | FC(S(=O)(=O)OC=1N=C(N(C(C1)=O)C1=CC=C(C=C1)OCC(F)(F)F)CCC(F)(F)F)(F)F | C16H11F9N2O5S
reactant | 1,1-diphenylmethanimine | 1.97 mL | C1(=CC=CC=C1)C(=N)C1=CC=CC=C1 | C13H11N
reactant | cesium carbonate | 7.97 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 537 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 6-amino-3-[4-(2,2,2-trifluoroethoxy)phenyl]-2-(3,3,3-trifluoropropyl)pyrimidin-4(3H)-one | 2.64 g | NC1=CC(N(C(=N1)CCC(F)(F)F)C1=CC=C(C=C1)OCC(F)(F)F)=O | C15H13F6N3O2
